US07538239B2
2-(2,5-dimethylcyclopenta-1,4-dienyl)-3,5-dimethylphenyl(trimethylacetyl)-amine
An experiment was performed in the same manner as in Example 49 using 0.717 g (3.36 mmol) of 2-(2,5-dimethylcyclopenta-1,4-dienyl)-3,5-dimethylphenylamine, 0.408 g (4.03 mmol) of triethylamine, and 0.486 g (4.03 mmol) of pivaloyl chloride. The reaction product was filtered using a column chromatography with a toluene/MC (v/v, 1:1) solvent. The resultant reaction product was dried in vacuum to remove the solvent therein, thereby obtaining while solid (0.698 g, 70%).

reactant | 2-(2,5-dimethylcyclopenta-1,4-dienyl)-3,5-dimethylphenylamine | 3.36 mmol, 0.717 g | CC1=C(C(=CC1)C)C1=C(C=C(C=C1C)C)N | C15H19N
reactant | triethylamine | 4.03 mmol, 0.408 g | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 4.03 mmol, 0.486 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | 2-(2,5-dimethylcyclopenta-1,4-dienyl)-3,5-dimethylphenyl(trimethylacetyl)-amine | 0.698 g, 70% | CC1=C(C(=CC1)C)C1=C(C=C(C=C1C)C)NC(C(C)(C)C)=O | C20H27NO
